US04362738
1-[4-Amino-3-bromo-5-(N-cyclohexyl-n-propylaminomethyl)-benzoyloxy]-4-{2-[(2,6-dichlorophenyl)-amino]-phenylacetoxy}-n-butane
This compound was prepared from 4-[4-amino-3-bromo-5-(N-cyclohexyl-n-propylaminomethyl)-benzoyloxy]-n-butyl chloride and sodium 2-[(2,6-dichlorophenyl)-amino]-phenylacetate analogous to Example 8. Oil.

reactant | 4-[4-amino-3-bromo-5-(N-cyclohexyl-n-propylaminomethyl)-benzoyloxy]-n-butyl chloride | NC1=C(C=C(C(=O)OCCCCCl)C=C1CN(C1CCCCC1)CCC)Br | C21H32BrClN2O2
reactant | sodium 2-[(2,6-dichlorophenyl)-amino]-phenylacetate | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)[O-].[Na+]
product | 1-[4-Amino-3-bromo-5-(N-cyclohexyl-n-propylaminomethyl)-benzoyloxy]-4-{2-[(2,6-dichlorophenyl)-amino]-phenylacetoxy}-n-butane | NC1=C(C=C(C(=O)OCCCCOC(CC2=C(C=CC=C2)NC2=C(C=CC=C2Cl)Cl)=O)C=C1CN(C1CCCCC1)CCC)Br | C35H42BrCl2N3O4
